US07192956B2
To a stirred solution of 4,4-bis(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one (0.50 g, 1.75 mmol) in glacial acetic acid (6 mL) buffered with potassium acetate (0.52 g, 5.25 mmol) was added bromine (0.28 g, 1.75 mmol). The reaction was stirred 30 minutes and poured into brine (30 mL), and extracted with ethyl acetate several times. The organic layer was dried over magnesium sulfate and concentrated. Flash column separation using 10% ethyl acetate/hexane gave 0.36 g of 6-bromo-4,4-bis(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one as a white solid(57%). 1H NMR (DMSO-d6): δ 11.57 (s, 1H), 7.85 (dd, J=8.7, 2.2 Hz, 1H), 7.60 (s, 1H), 7.08 (d, J=8.7 Hz, 1H). MS (ESI) m/z 362/364 ([M+H]+); HRMS: calcd for C10H4BrF6NO2, 362.9330; found (ESI_FT), 363.93994.

reactant | 4,4-bis(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | 1.75 mmol, 0.50 g | FC(C1(OC(NC2=C1C=CC=C2)=O)C(F)(F)F)(F)F | C10H5F6NO2
reactant | potassium acetate | 5.25 mmol, 0.52 g | C(C)(=O)[O-].[K+]
reactant | bromine | 1.75 mmol, 0.28 g | BrBr | Br2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 6-bromo-4,4-bis(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.36 g, 57% | BrC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)C(F)(F)F)C1 | C10H4BrF6NO2
